US09422271B2
(E)-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-(3-methoxyprop-1-enyl)-2-phenylpyrimidin-4-amine (Compound 39)
A mixture of tert-butyl 5-cyclopropyl-3-(5-iodo-2-phenylpyrimidin-4-ylamino)-1H-pyrazole-1-carboxylate (318 mg, 0.63 mmol, 1.0 equiv.), (E)-2-(3-methoxyprop-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (500 mg, 2.53 mmol, 4.0 equiv.), PdCl2(dppf2)′CH2Cl2 (155 mg, 0.19 mmol, 0.3 equiv.) and K2CO3 (348 mg, 2.53 mmol, 4.0 equiv.) in dry DMF (40 mL) was heated to 90° C. under a nitrogen atmosphere and stirred for 2 hours. Then, the reaction mixture was cooled down to room temperature and concentrated in vacuum. The residue was purified by Prep-HPLC to give the title compound (E)-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-(3-methoxyprop-1-enyl)-2-phenylpyrimidin-4-amine (Compound 39) (10 mg, 2%). LCMS: 348.1 [M+H]+. 1H NMR (400 MHz, DMSO-d6): 0.72-0.78 (m, 2H), 0.96-0.98 (m, 2H), 1.94-2.02 (m, 1H), 3.30 (s, 3H), 4.06 (d, J=5.2 Hz, 2H), 6.33 (m, 1H), 6.46 (s, 1H), 7.02 (d, J=15.6 Hz, 1H), 7.48 (m, 3H), 8.29 (d, J=4.4 Hz, 2H), 8.53 (s, 1H), 9.26 (s, 1H), 12.15 (s, 1H).

reactant | tert-butyl 5-cyclopropyl-3-(5-iodo-2-phenylpyrimidin-4-ylamino)-1H-pyrazole-1-carboxylate | 0.63 mmol, 318 mg, 1.0 equiv. | C1(CC1)C1=CC(=NN1C(=O)OC(C)(C)C)NC1=NC(=NC=C1I)C1=CC=CC=C1 | C21H22IN5O2
reactant | (E)-2-(3-methoxyprop-1-enyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.53 mmol, 500 mg, 4.0 equiv. | COC/C=C/B1OC(C(O1)(C)C)(C)C | C10H19BO3
reactant | K2CO3 | 2.53 mmol, 348 mg, 4.0 equiv. | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (E)-N-(5-cyclopropyl-1H-pyrazol-3-yl)-5-(3-methoxyprop-1-enyl)-2-phenylpyrimidin-4-amine | 10 mg, 2% | C1(CC1)C1=CC(=NN1)NC1=NC(=NC=C1\C=C\COC)C1=CC=CC=C1 | C20H21N5O
